US04973599
2-[(4-Fluoro-2-nitrophenyl)thio]-1-methyl-1H-imidazole
To a mixture of 0.6 g of 60% sodium hydride in mineral oil in 25 ml of N,N-dimethylformamide was added 1.1 g (10 mmoles) of 2-mercapto-1-methylimidazole. After stirring for 30 minutes, 1.6 g (10 mmoles) of 2,5-difluoronitrobenzene was added and the mixture stirred at room temperature for 16 hours. After adding 0.5 ml of acetic acid, the mixture was poured into a mixture of ice, water and sodium chloride. After standing for 1 hour the solid was collected by filtration, washed with water and dried. The crude product was purified by chromatography on silica gel using ethyl acetate as the eluent. The fractions containing the product were combined and concentrated to give 0.7 g (28%) of the product as yellow prisms, mp 123°-126° C.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2-mercapto-1-methylimidazole | 10 mmoles, 1.1 g | SC=1N(C=CN1)C | C4H6N2S
reactant | 2,5-difluoronitrobenzene | 10 mmoles, 1.6 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-[(4-Fluoro-2-nitrophenyl)thio]-1-methyl-1H-imidazole | 0.7 g, 28% | FC1=CC(=C(C=C1)SC=1N(C=CN1)C)[N+](=O)[O-] | C10H8FN3O2S
